US06008265
19.3 g of 2-ethylhexyl-magnesium prepared from 2-ethylhexyl bromide, are reacted with 15.7 g of bromobenzene in the presence of a catalyst based on bis[bis(diphenylphosphionethane]palladium(0). 19 g of 2-ethylhexyl-benzene thus obtained were dissolved in 60 ml of an equal volume mixture of trifluoroacetic acid and anhydride maintained at 0° C. under stirring, to which 3.5 g of sodium iodide and 4.2 g of iodic anhydride are added. The solvent is removed with a rotary evaporator. Then the residual product is dissolved in 30 ml of acetonitrile and poured in 200 ml of water containing 10 g of sodium acetate and 2 g of sodium sulfite and 14 g of potassium bis-fluorosulfonylimide. The organic phase is extracted with dichloromethane and washed with water. The solvent is eliminated by means of a rotary evaporator to leave an oily liquid of bis-fluorosulfonylimide of bis-[4-(2-ethylhexyl)]phenyl-iodonium. This ionic compound presents characteristics of solubility in hydrocarbons and silicon oils comparable to those of compounds with longer alkyl chains such as bis(dodecylbenzene) iodonium associated to the anion PF6-. It has a lipophilic character more noticeable than that of the compound of Example 3. It is particularly advantageous to catalyze the cross-linking of antiadhesive silicon coating and the polymerization of the monomers of low polarity such as cyclohexanedimethanoldivinylether, 2-ethylhexylglycidylether or 2-ethylhexylvinylether.

reactant | 2-ethylhexyl-magnesium | 19.3 g | C(C)C(C[Mg])CCCC
reactant | 2-ethylhexyl bromide | C(C)C(CBr)CCCC | C8H17Br
reactant | bromobenzene | 15.7 g | BrC1=CC=CC=C1 | C6H5Br
product | 2-ethylhexyl-benzene | 19 g | C(C)C(CC1=CC=CC=C1)CCCC | C14H22
